US04487946
Methyl 1-acetyl-2-vinylcyclopropane-1-carboxylate was prepared by the reaction of 1,4-dichlorobutene-2 and methyl acetoacetate using the classical condensation procedure. For the reaction, methyl sodioacetoacetate was prepared by first reacting 36.6 grams sodium metal with 500 mls anhydrous methanol and then adding 185.6 grams of the methyl acetoacetic ester. The resulting solution was then added dropwise, at a rate sufficient to maintain reflux, to 100 grams 1,4-dichlorobutene-2 in 200 mls methanol under a nitrogen atmosphere. After addition was complete, refluxing was continued for 3 hours followed by stirring overnight at ambient temperature. The resulting reaction product (IA) was then stripped under reduced pressure after filtering to remove insoluble salts. Fractional distillation yielded 55 percent yield of a product (IB) consisting predominantly of the desired vinylcyclopropane product (boiling point 83.5° C.-85.0° C. at 4.5 mm Hg; nD22° 1.4705). Nuclear magnetic resonance spectroscopy and gas chromatographic analysis of IB showed the product to consist of 85.7 percent methyl 1-acetyl-2-vinylcyclopropane-1-carboxylate and 14.3 percent 4-carbomethoxy-5-methyl-2-vinyl-2,3-dihydrofuran.

reactant | 1,4-dichlorobutene-2 | C(/C=C/CCl)Cl | C4H6Cl2
reactant | methyl acetoacetate | C(CC(=O)C)(=O)OC | C5H8O3
reactant | methyl sodioacetoacetate | [Na]CC(CC(=O)OC)=O
reactant | sodium | 36.6 grams | [Na] | Na
reactant | 1,4-dichlorobutene-2 | 100 grams | C(/C=C/CCl)Cl | C4H6Cl2
solvent | methanol | 200 mls | CO | CH4O
solvent | methanol | 500 mls | CO | CH4O
product | Methyl 1-acetyl-2-vinylcyclopropane-1-carboxylate | C(C)(=O)C1(C(C1)C=C)C(=O)OC | C9H12O3
